US05659037
1e. 4-Bromo-2-propylthiophene
To a solution of crude 1-(4-bromo-2-thienyl)-1-propanone, (53 g, 242 mmol, from step 1d above) in 210 mL of ethylene glycol was added hydrazine monohydrate (30 mL, 617 mmol). The resulting solution was then heated to 160° C. with stirring for 45 min. The solution was cooled to 35° C. and 42 g of KOH (750 mmol) was added. The mixture was heated to 160° C. and stirred for 1.5 hr. The reaction was cooled to room temperature, and 450 mL of water was added. The mixture was then acidified with conc. HCl, and the product was extracted with pentane (3×200mL). The pentane was dried over MgSO4, filtered and evaporated to yield 39.7 g of crude product as a free flowing oil. The material was purified by flash chromatography on silica gel, eluting with pentane, to afford 27 g, (54% yield) of the title product. b.p. 120°-125° C. @7 mm Hg. NMR (CDCl3) δ: 0.97 (t, 3H, J=7.5 Hz), 1.69 (sextet, 2H, J=7.5 Hz), 2.75 (t, 2H, J=7.5 Hz), 6.70 (d, 1H), 7.00 (d, 1H).

reactant | 1-(4-bromo-2-thienyl)-1-propanone | BrC=1C=C(SC1)C(CC)=O | C7H7BrOS
reactant | hydrazine monohydrate | 617 mmol, 30 mL | O.NN
reactant | KOH | 750 mmol, 42 g | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | ethylene glycol | 210 mL | C(CO)O | C2H6O2
solvent | water | 450 mL | O | H2O
product | 4-Bromo-2-propylthiophene | 54% yield | BrC=1C=C(SC1)CCC | C7H9BrS
